US05679678
1-[5-(4-Fluorophenoxy)-2-furanyl]-2-chloroethanone
1.86 g (29.08 mmol) of n-butyllithium (2.5N in n-hexane) are added dropwise to 5.18 g (29.08 mmol) of 2-(4-fluorophenoxy)furan in 40 ml of absolute tetrahydro-furan at -75° C., and the mixture is stirred for 2.5 h. Then 6.14 g (50.51 mmol) of 2-chloro-N,N-dimethylacetamide in 30 ml of absolute tetrahydrofuran are added at -75° C. After 60 min, the mixture is poured into 200 ml of ice-water, neutralized at 0° C. with 2N hydrochloric acid and extracted 5× with 40 ml of ethyl acetate each time. The combined organic phases are washed 2× with 20 ml of water each time, dried over sodium sulphate and filtered, and the solvent is stripped off. The product is purified by column chromatography (360 g of silica gel 60; solvent: toluene) and recrystallized from diisopropyl ether.

reactant | n-butyllithium | 29.08 mmol, 2.5N, 1.86 g | C(CCC)[Li]
reactant | 2-(4-fluorophenoxy)furan | 29.08 mmol, 5.18 g | FC1=CC=C(OC=2OC=CC2)C=C1 | C10H7FO2
reactant | 2-chloro-N,N-dimethylacetamide | 50.51 mmol, 6.14 g | ClCC(=O)N(C)C | C4H8ClNO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydro-furan | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-[5-(4-Fluorophenoxy)-2-furanyl]-2-chloroethanone | FC1=CC=C(OC2=CC=C(O2)C(CCl)=O)C=C1 | C12H8ClFO3
